US06673799B1
4-(4-Benzyl-2-ethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile
At 0° C., 5 ml of 1 M borane-THF solution was added dropwise to 30 ml of anhydrous THF solution containing 1.47 g of 4-(4-benzyl-2-ethyl-3-oxopiperazin-1-yl)-2-trifluoromethylbenzonitrile synthesized in Reference Example 5-1, and the mixture was stirred for 4 hours. After addition of 10 ml of methanol and 38 ml of 1 N hydrochloric acid to the mixture with stirring, the reaction solution was evaporated under reduced pressure, the resulting residue was neutralized with saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate, the organic layer was washed and dried, and then the solvent was evaporated under reduced pressure. The residue was purified by a silica gel column chromatography, and 0.67 g of the title compound was obtained from hexane-ethyl acetate (5:1, v/v) eluate as yellow oily substance.

reactant | borane THF | 1 M, 5 ml | B.C1CCOC1
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | 4-(4-benzyl-2-ethyl-3-oxopiperazin-1-yl)-2-trifluoromethylbenzonitrile | 1.47 g | C(C1=CC=CC=C1)N1C(C(N(CC1)C1=CC(=C(C#N)C=C1)C(F)(F)F)CC)=O | C21H20F3N3O
reactant | hydrochloric acid | 1 N, 38 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 4-(4-Benzyl-2-ethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile | 0.67 g | C(C1=CC=CC=C1)N1CC(N(CC1)C1=CC(=C(C#N)C=C1)C(F)(F)F)CC | C21H22F3N3
